* Historical exploratory circuit; not the revision B release netlist.
* Use sim/eqprop/spice_full.py and the revision B KiCad hierarchy.
* sim4_complementary.cir -- Complementary-Input 6-2-2 EqProp Network
* ===================================================================
* Full network with complementary inputs and V_LOW/V_HIGH bias:
*   6 inputs (X1, X1_comp, X2, X2_comp, V_LOW, V_HIGH)
*   2 hidden nodes (H1, H2)
*   2 output nodes (Y+, Y-)
*   16 weight resistors
*
* Complementary inputs enable effective negative weights:
*   w_eff = g(X1->H) - g(X1_comp->H)
* which is required for XOR.
*
* V_LOW/V_HIGH bias pair (instead of single V_MID bias) breaks the
* odd symmetry of the activation function. A single bias at V_MID=2.5V
* contributes zero net current (it's at the diode center), making the
* network function odd: f(-x) = -f(x). Since XOR patterns (0,1) and
* (1,0) are negatives in centered coordinates, pred(0,1) = -pred(1,0)
* always -- making XOR impossible. V_LOW/V_HIGH breaks this symmetry.
*
* HOW TO RUN (ngspice):
*   ngspice -b -r sim4_complementary.raw -o sim4_complementary.log sim4_complementary.cir
*
* HOW TO RUN (LTspice):
*   1. File -> Open -> select this file
*   2. Simulate -> Run
*   3. View -> SPICE Error Log to see all node voltages
*
* TRY DIFFERENT XOR INPUT PATTERNS:
*   Pattern (0,0): V_X1=0.9951  V_X1C=4.0049  V_X2=0.9951  V_X2C=4.0049
*   Pattern (0,1): V_X1=0.9951  V_X1C=4.0049  V_X2=4.0049  V_X2C=0.9951
*   Pattern (1,0): V_X1=4.0049  V_X1C=0.9951  V_X2=0.9951  V_X2C=4.0049
*   Pattern (1,1): V_X1=4.0049  V_X1C=0.9951  V_X2=4.0049  V_X2C=0.9951
*
* ===================================================================

* --- BAT42 Schottky Diode Model ---
.model BAT42 D(Is=1e-7 Rs=12 N=1.1 Cjo=15p Vj=0.25 M=0.5)

* --- Weight Resistance Parameters ---
* All 20k = mid-range pot tap. Change these to experiment.
.param Rw1=20k Rw2=20k Rw3=20k Rw4=20k Rw5=20k Rw6=20k
.param Rw7=20k Rw8=20k Rw9=20k Rw10=20k Rw11=20k Rw12=20k
.param Rw13=20k Rw14=20k Rw15=20k Rw16=20k

* =====================================================
* INPUT VOLTAGES
* =====================================================
* Current pattern: (1,0) -- X1 high, X2 low
V_X1   x1   0 4.0049
V_X1C  x1c  0 0.9951
V_X2   x2   0 0.9951
V_X2C  x2c  0 4.0049
V_LOW  vlow  0 0.9951
V_HIGH vhigh 0 4.0049

* --- Reference Voltages ---
* Separate V_MID for each hidden node (prevents crosstalk)
V_MID_H1 vmid_h1 0 2.5
V_MID_H2 vmid_h2 0 2.5

* =====================================================
* FIRST LAYER: 6 Inputs -> 2 Hidden Nodes (12 weights)
* =====================================================
* Each weight = 1.21k series protection + variable pot resistance

* W1: X1 -> H1
R_s1 x1 w1m 1.21k
R_W1 w1m h1 {Rw1}

* W2: X1 -> H2
R_s2 x1 w2m 1.21k
R_W2 w2m h2 {Rw2}

* W3: X1_comp -> H1
R_s3 x1c w3m 1.21k
R_W3 w3m h1 {Rw3}

* W4: X1_comp -> H2
R_s4 x1c w4m 1.21k
R_W4 w4m h2 {Rw4}

* W5: X2 -> H1
R_s5 x2 w5m 1.21k
R_W5 w5m h1 {Rw5}

* W6: X2 -> H2
R_s6 x2 w6m 1.21k
R_W6 w6m h2 {Rw6}

* W7: X2_comp -> H1
R_s7 x2c w7m 1.21k
R_W7 w7m h1 {Rw7}

* W8: X2_comp -> H2
R_s8 x2c w8m 1.21k
R_W8 w8m h2 {Rw8}

* W9: V_LOW -> H1
R_s9 vlow w9m 1.21k
R_W9 w9m h1 {Rw9}

* W10: V_LOW -> H2
R_s10 vlow w10m 1.21k
R_W10 w10m h2 {Rw10}

* W11: V_HIGH -> H1
R_s11 vhigh w11m 1.21k
R_W11 w11m h1 {Rw11}

* W12: V_HIGH -> H2
R_s12 vhigh w12m 1.21k
R_W12 w12m h2 {Rw12}

* =====================================================
* ACTIVATION FUNCTIONS: Antiparallel Schottky Pairs
* =====================================================
* Each pair clamps the hidden node to ~2.2V -- 2.8V

* H1 diode pair
D1a h1 vmid_h1 BAT42
D1b vmid_h1 h1 BAT42

* H2 diode pair
D2a h2 vmid_h2 BAT42
D2b vmid_h2 h2 BAT42

* =====================================================
* SECOND LAYER: 2 Hidden -> 2 Output Nodes (4 weights)
* =====================================================
* No diodes on output nodes -- they float freely

* W13: H1 -> Y+
R_s13 h1 w13m 1.21k
R_W13 w13m yp {Rw13}

* W14: H1 -> Y-
R_s14 h1 w14m 1.21k
R_W14 w14m yn {Rw14}

* W15: H2 -> Y+
R_s15 h2 w15m 1.21k
R_W15 w15m yp {Rw15}

* W16: H2 -> Y-
R_s16 h2 w16m 1.21k
R_W16 w16m yn {Rw16}

* --- DC Operating Point Analysis ---
.op

.end
